US04512992
To a solution of dimethylformamide (17.5 g) in chloroform (75 ml) was added thionyl chloride (28.6 g) in chloroform (25 ml) at 0°-5° C. The reaction mixture was allowed to heat to 55°-60° for about 5 minutes and cooled to 0° C. To the reaction mixture was added over a 20 minute period at 0° C. 2,4-diamino-5-methyl-6-(3,4-dimethoxybenzyl)-7-oxo-7,8-dihydropyrido[2,3-d]-pyrimidine (8.2 g). Chloroform (50 ml) was added, and the mixture was heated at reflux for 2.5 hours and cooled. Ethanol in base (50 ml) was added. The resulting brown product was collected by filtration, treated with 2N sodium hydroxide and recrystallized from ethanol to give 7.6 g of crude product. Additional recrystallization from ethanol-water gave 2,4-diamino-5-methyl-6-(3,4-dimethoxybenzyl)-7-chloropyrido[2,3-d]pyrimidine (2 g), m.p. 224°-225° C. (dec.). This was added to ethanol (250 ml) containing potassium hydroxide (0.2 g), 5% palladium on charcoal catalyst (Pd/C, 0.1 g) was added and hydrogenation commenced. Reduction was complete after 4 hours in a Parr low-pressure apparatus at 35-40 psi and gave 2,4-diamino-6-(3,4-dimethoxybenzyl)-5-methylpyrido[2,3-d]pyrimidine (0.1 g), m.p. 265°-268° C. (dec.).

reactant | dimethylformamide | 17.5 g | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 28.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,4-diamino-5-methyl-6-(3,4-dimethoxybenzyl)-7-oxo-7,8-dihydropyrido[2,3-d]-pyrimidine | 8.2 g | NC=1N=C(C2=C(N1)NC(C(=C2C)CC2=CC(=C(C=C2)OC)OC)=O)N | C17H19N5O3
reactant | Ethanol | C(C)O | C2H6O
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4-diamino-5-methyl-6-(3,4-dimethoxybenzyl)-7-chloropyrido[2,3-d]pyrimidine | 2 g | NC=1N=C(C2=C(N1)N=C(C(=C2C)CC2=CC(=C(C=C2)OC)OC)Cl)N | C17H18ClN5O2
